US06150351
To a solution of ethyl 2-cyclohexanone acetate (1.0 g) in dimethoxyethane (15 ml) was added bromine (911 mg) at ice-cooling. After stirring at room temperature for 1 hour, the solution was poured into a mixture of water and ethyl acetate. The separated organic layer was washed with aqueous sodium hydrogen sulfite, sodium hydrogen carbonate and saturated sodium chloride orderly, and dried over magnesium sulfate and evaporated under reduced pressure. The residue was subjected to column chromatography on silica gel (eluent: ethyl acetate/n-hexane) to give ethyl 2-bromo-6-cyclohexanone acetate (258 mg).

reactant | ethyl 2-cyclohexanone acetate | 1.0 g | CCOC(=O)CC1CCCCC1=O | C10H16O3
reactant | bromine | 911 mg | BrBr | Br2
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethoxyethane | 15 ml | C(OC)COC | C4H10O2
product | ethyl 2-bromo-6-cyclohexanone acetate | 258 mg | C(C)(=O)O.C(C)C1C(CCCC1=O)Br | InChI=1S/C8H13BrO.C2H4O2/c1-2-6-7(9)4-3-5-8(6)10;1-2(3)4/h6-7H,2-5H2,1H3;1H3,(H,3,4)
